US09260425B2
To a solution of 2-bromo-4-methyl-5-nitropyridine (217 g, 1 mol) in DMF (2000 mL) was added Pd(dppf)Cl2 (5 g), saturated solution of Na2CO3 (200 mL) and pyridin-3-ylboronic acid (147 g, 1.2 mol). The mixture was stirred under argon for 6 h at 100. After cooling down, the solvent was removed under reduced pressure evaporation and the residue was purified by silica-gel column chromatography (mobile phase: EA:PE=1:1) to afford 4-methyl-5-nitro-2,3′-bipyridine (172 g, 80%).

reactant | 2-bromo-4-methyl-5-nitropyridine | 1 mol, 217 g | BrC1=NC=C(C(=C1)C)[N+](=O)[O-] | C6H5BrN2O2
reactant | Na2CO3 | 200 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | pyridin-3-ylboronic acid | 1.2 mol, 147 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
solvent | DMF | 2000 mL | CN(C)C=O | C3H7NO
catalyst | Pd(dppf)Cl2 | 5 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-methyl-5-nitro-2,3′-bipyridine | 172 g, 80% | CC1=CC(=NC=C1[N+](=O)[O-])C=1C=NC=CC1 | C11H9N3O2
